Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
hemoperitoneum 
 
Major Surgical or Invasive Procedure:
RA-lsc mmy, L ___ transferred from ___. No 
major surgical procedures during this admission. 
 
History of Present Illness:
___ G0 ___ s/p RA-lsc mmy, L ___
transferred from ___ with new diagnosis of hemoperitoneum. 


Patient underwent uncomplicated procedure yesterday. Brief op
Note from record as below. 

Date: ___
Anesthesia: General
Pre-Op Diagnosis: Symptomatic fibroid uterus, left ovarian
dermoid
Post-Op Diagnosis: Same
Surgeon: ___: Robotically assisted laparoscpic myomectomy, left
ovarian cystectomy
Specimens: 1)Fibroids.  2)Left ovarian cyst
Findings: Multifibroid uterus-12 fibroids removed.  6 cm left
ovarian dermoid
Complications: None
Estimated Blood Loss: 250 cc
Condition: Stable

She was discharged home with motrin and oxycodone. She reports
using motrin q6 hours as prescribed and using oxycodone for
breakthrough pain. She took a dose of oxycodone at 0800 today.
Around lunchtime she noticed trouble taking deep breaths. She
then raised her arm above her hands and then noticed sharp L
shoulder pain. She called an ambulance and was taken to
___. 

On arrival, vital signs were normal. Labs notable for elevated D
dimer ___ and Hct 28. She had CXR which was normal. CTA was
negative for PE. A CT abd/pelvis was ordered and notable for
hemoperitoneum. Given these findings she was transferred to ___
for further care. 

Here, reports feeling well. Her intense shoulder pain has
improved. She has lower abdominal pain that improves with pain
meds. Also reports pain in her lower back. Denies pain in her
chest or trouble breathing. Reports being able to tolerate
regular diet with no nausea/vomiting. 

 
Past Medical History:
 none, denies h/o htn, asthma, diabetes

 
Social History:
___
Family History:
N/A
 
Physical Exam:
Physical Exam On Presentation:
98.0, 82, 118/77, 16, 100% RA 
Gen: NAD
Lungs: No resp distress
Abd: soft, mildly distended, tender to palpation in lower
quadrants with guarding with deep palpation, no rebound
Pelvic: pad with moderate staining 

Exam Day of Discharge:
24 HR Data (last updated ___ @ 513)
    Temp: 98.7 (Tm 98.8), BP: 104/61 (104-124/61-85), HR: 82
(66-82), RR: 18, O2 sat: 100% (99-100), O2 delivery: Ra
Fluid Balance (last updated ___ @ 516)
  Last 8 hours  Total cumulative -550ml
    IN: Total 0ml
    OUT:  Total 550ml, Urine Amt 550ml
  Last 24 hours  Total cumulative 576ml
    IN: Total 1626ml, IV Amt Infused 1626ml
    OUT:  Total 1050ml, Urine Amt 1050ml

General: NAD, comfortable
CV: RRR
Lungs: CTAB
Abdomen: soft, non-distended, tender to palpation. +BS. 
Incisions
clean and healing.
GU: pad with minimal spotting
Extremities: no edema, no TTP, pneumoboots in place bilaterally 

 
Pertinent Results:
___ 11:50PM   WBC-9.4 RBC-2.52* HGB-7.5* HCT-23.5* MCV-93 
MCH-29.8 MCHC-31.9* RDW-13.2 RDWSD-45.2
___ 11:50PM   NEUTS-59.8 ___ MONOS-8.8 EOS-1.1 
BASOS-0.2 IM ___ AbsNeut-5.63 AbsLymp-2.80 AbsMono-0.83* 
AbsEos-0.10 AbsBaso-0.02
___ 11:50PM   PLT COUNT-226
___ 07:49PM   LACTATE-0.8
___ 07:40PM   GLUCOSE-94 UREA N-9 CREAT-0.9 SODIUM-140 
POTASSIUM-4.8 CHLORIDE-103 TOTAL CO2-19* ANION GAP-18
___ 07:40PM   estGFR-Using this
___ 07:40PM   WBC-10.8* RBC-2.64* HGB-7.9* HCT-24.4* MCV-92 
MCH-29.9 MCHC-32.4 RDW-13.1 RDWSD-43.5
___ 07:40PM   NEUTS-61.4 ___ MONOS-7.3 EOS-0.7* 
BASOS-0.3 IM ___ AbsNeut-6.62* AbsLymp-3.22 AbsMono-0.78 
AbsEos-0.07 AbsBaso-0.03
___ 07:40PM   PLT COUNT-231
___ 07:40PM   ___ PTT-27.0 ___
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the ___ gynecology 
service after transfer from ___ for hemoperitoneum found 
on CT Abd/Pelvis, POD#1 from a RA-LSC MMY and L ovarian 
cystectomy. She was stable upon transfer and the decision was 
made to proceed with observation with serial hct and abdominal 
exams. Her hct remained stable at 23 with low concern for active 
bleeding. By hospital day 2, post-operative day 3, she remained 
afebrile, pain controlled with PO meds, ambulated without issue, 
tolerated clears and solids, passed flatus, and appeared 
comfortable. She was then discharged home in stable condition 
with outpatient follow-up scheduled.

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever 
Do not take more than 4000mg in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
hold for loose stool 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Tablet Refills:*1 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
Take with food. 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*1 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
Do not drink alcohol or drive while taking this medication. 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*5 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hemoperitoneum

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service at ___ for further 
monitoring after your operation at ___. You had a CT scan 
of your abdomen that showed bleeding that is now believed to be 
stable. We have reviewed your blood counts is also stable. You 
have recovered well and the team believes you are ready to be 
discharged home. Please call OB/GYN office with any questions or 
concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking opioids (e.g. oxycodone, 
hydromorphone)
* Take a stool softener such as colace while taking opioids to 
prevent constipation.
* Do not combine opioid and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 6 
weeks.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___